US07345180B2
1-Benzyloxymethyl-1H-indole-5-carboxylic acid
Methyl 1H-indole-5-carboxylate (500 mg) was dissolved in N,N-dimethylformamide (6.0 ml). The solution was cooled to 0° C., and sodium hydride (230 mg) was added thereto and stirred for 30minutes. Benzylchloromethylether (1.2ml) was added thereto, and the mixture was stirred for 2 hours at room temperature. The reaction solution was extracted with ethyl acetate, and the organic phase was washed with 2 N hydrochloric acid, a saturated sodium bicarbonate solution and a saturated saline solution. The resulting product was dried over sodium sulfate anhydrous and then concentrated under reduced pressure. 1,4-Dioxane (10 ml) and 1 N sodium hydroxide solution (5 ml) were added to the residue and stirred for 22 hours at 40° C. The reaction mixture was acidified by 2 N hydrochloric acid and then extracted with chloroform. The extract was dried over sodium sulfate anhydrous and then concentrated under reduced pressure. Precipitates were collected by filtration, washed with n-hexane and dried under reduced pressure to give the title compound (740 mg, Y.: 92%).

reactant | Methyl 1H-indole-5-carboxylate | 500 mg | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
reactant | sodium hydride | 230 mg | [H-].[Na+]
reactant | Benzylchloromethylether | 1.2ml | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
reactant | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
product | 1-Benzyloxymethyl-1H-indole-5-carboxylic acid | 740 mg, 92% | C(C1=CC=CC=C1)OCN1C=CC2=CC(=CC=C12)C(=O)O | C17H15NO3
